US06350771B1
A solution of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carbonitrile (4.92 g) in triethyl orthoformate (100 ml) was heated under reflux for two hours, then stirred at 20° C. for 16 hours and evaporated. Trituration with boiling hexane gave 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-[(ethoxymethylene)amino]-4-methylsulfinyl-1H-pyrazole-3-carbonitrile (4.05 g), m.p. 93-95° C. By proceeding in a similar manner the following compound was prepared:

reactant | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-4-methylsulfinyl-1H-pyrazole-3-carbonitrile | 4.92 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)C | C12H7Cl2F3N4OS
reactant | triethyl orthoformate | 100 ml | C(OCC)(OCC)OCC | C7H16O3
product | 1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-5-[(ethoxymethylene)amino]-4-methylsulfinyl-1H-pyrazole-3-carbonitrile | 4.05 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1N=COCC)S(=O)C)C#N | C15H11Cl2F3N4O2S
